US04242507
N-Benzyloxycarbonyl-L-phenylalanine (3.0 g) and L-isoleucine methyl ester hydrochloride (1.82 g) are dissolved in anhydrous dichloromethane (30 ml), and thereto are added triethylamine (2.80 ml) and further 1-methanesulfonyloxy-1,2,3-benzotriazole (2.15 g) with stirring under ice-cooling, and the mixture is stirred at room temperature for 40 hours. After reaction, the solvent is distilled off and the resulting residue is extracted with ethyl acetate. The extract is washed with water, a saturated aqueous sodium hydrogen carbonate (5 times), water, 2 N hydrochloric acid and water in order and then dried over anhydrous magnesium sulfate. After drying, the solvent is distilled off to give crystalline powder of N-(N-benzyloxycarbonyl-L-phenylalanyl)-L-isoleucine methyl ester (3.46 g), melting point: 94.5°-95.5° C.

reactant | N-Benzyloxycarbonyl-L-phenylalanine | 3.0 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C17H17NO4
reactant | L-isoleucine methyl ester hydrochloride | 1.82 g | Cl.COC([C@@H](N)[C@@H](C)CC)=O
reactant | triethylamine | 2.80 ml | C(C)N(CC)CC | C6H15N
reactant | 1-methanesulfonyloxy-1,2,3-benzotriazole | 2.15 g | CS(=O)(=O)ON1N=NC2=C1C=CC=C2 | C7H7N3O3S
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | N-(N-benzyloxycarbonyl-L-phenylalanyl)-L-isoleucine methyl ester | 3.46 g | COC([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O)[C@@H](C)CC)=O | C24H30N2O5
